US06723722B1
4-Benzyloxycarbonyl-1-{methyl[1-(tert-butoxycarbonyl)-4-piperidinyl]amino}-2-piperazinone
A mixture of 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone (9.00 g), potassium carbonate (3.46 g) and methyl iodide (29.81 g) in DMF (100 ml) was stirred at 50° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was combined with water (200 ml) and extracted with a mixture of ethyl acetate and tetrahydrofuran (1:1, 120 ml×3). The extract was washed with water and brine, dried and concentrated. The residue was crystallized from diisopropyl ether to obtain the title compound (8.55 g) as colorless crystals.

reactant | 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone | 9.00 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H32N4O5
reactant | potassium carbonate | 3.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 29.81 g | CI | CH3I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-Benzyloxycarbonyl-1-{methyl[1-(tert-butoxycarbonyl)-4-piperidinyl]amino}-2-piperazinone | 8.55 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)N(C1CCN(CC1)C(=O)OC(C)(C)C)C)=O | C23H34N4O5
